US06794397B2
N-(4-Ethoxy-2-nitrophenyl)-3-furancarboxamide
The title compound was prepared from 3-furoic acid and 4-ethoxy-2-nitroaniline as a yellow solid as described in Example 15. 1H NMR (DMSO-d6): 10.25 (s, 1H), 8.36 (d, J=2.4, 1H), 7.83-7.81 (m, 1H), 7.53-7.47 (m, 2H), 7.35-7.31 (m, 1H), 6.94 (d, J=2.4, 1H), 4.12 (q, J=6.9, 2H), 1.35 (t, J=6.9, 3H).

reactant | 3-furoic acid | O1C=C(C=C1)C(=O)O | C5H4O3
reactant | 4-ethoxy-2-nitroaniline | C(C)OC1=CC(=C(N)C=C1)[N+](=O)[O-] | C8H10N2O3
product | N-(4-Ethoxy-2-nitrophenyl)-3-furancarboxamide | C(C)OC1=CC(=C(C=C1)NC(=O)C1=COC=C1)[N+](=O)[O-] | C13H12N2O5
